US08193228B2
Pd(dppf)Cl2 (0.73 g, 1 mol) was added to a degassed, ambient temperature suspension of 1-(4-bromophenyl)-2,2-difluoroethanone (9.4 g, 0.04 mol), bis(pinacolato)diboron (17.7 g, 0.05 mol) and potassium acetate (8.83 g, 0.09 mol) in N,N-dimethylformamide (190 mL). After heating at 90° C. for 48 h, the reaction mixture was cooled and the solvents removed in vacuo. The residue was dissolved in methylene chloride (150 mL), filtered and concentrated in vacuo. Chromatography over silica eluting with petroleum ether/ethyl acetate (20:1) afforded 2,2-difluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone.

reactant | 1-(4-bromophenyl)-2,2-difluoroethanone | 0.04 mol, 9.4 g | BrC1=CC=C(C=C1)C(C(F)F)=O | C8H5BrF2O
reactant | bis(pinacolato)diboron | 0.05 mol, 17.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.09 mol, 8.83 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 190 mL | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | 1 mol, 0.73 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,2-difluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone | FC(C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C14H17BF2O3
